US08202876B2
To the solution of 4-(6-Methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine (245 mg, 1.18 mmol) is added with NaOMe solution (25 wt % in MeOH, 425 μL, 1.53 mmol) dropwise. The reaction mixture is kept stirring for 30 minutes. Then Iodomethane (110 uL, 1.76 mmol) is added into the reaction mixture drop wise. After stirring overnight at room temperature, the reaction mixture is concentrated, treated with 75 mL ethyl acetate, and washed with water. Filtration removes the undissolved solid. The obtained filtrate is separated, and the collected organic layer is dried over sodium sulfate, and concentrated. The crude product is purified by ISCO chromatography eluting with ethyl acetate in hexanes from 25% to 100% to afford 1-Methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazol-3-ylamine: 1H NMR 400 MHz (d6-DMSO) δ 8.73 (s, 1H), 8.27 (s, 1H), 7.44 (s, 1H), 5.81 (s, 1H), 3.65 (s, 3H), 2.53 (s, 3H); MS m/z 222.07 (M+1).

reactant | 4-(6-Methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine | 1.18 mmol, 245 mg | CSC1=CC(=NC=N1)C1=C(NN=C1)N | C8H9N5S
reactant | NaOMe | 1.53 mmol, 425 μL | C[O-].[Na+]
reactant | Iodomethane | 1.76 mmol, 110 uL | IC | CH3I
product | 1-Methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazol-3-ylamine | CN1N=C(C(=C1)C1=NC=NC(=C1)SC)N | C9H11N5S
